* C:\Users\john\Downloads\Bill(Gates)\CMOS\Test_XOR.asc
XX2 A B Out VDD xor_gate

* block symbol definitions
.subckt xor_gate A B Out VDD
M1 Out A N003 N003 RIT4007N7
M2 Out N002 P001 P001 RIT4007P7
M3 Out N001 P002 P002 RIT4007P7
M4 N003 N001 0 0 RIT4007N7
M5 N003 B 0 0 RIT4007N7
M6 Out N002 N003 N003 RIT4007N7
XX2 A VDD N001 not_gate
M7 P002 B VDD VDD RIT4007P7
M8 P001 A VDD VDD RIT4007P7
XX3 B VDD N002 not_gate
.inc CD4007.mod
.ends xor_gate

.subckt not_gate A VDD !A
M1 !A A 0 0 RIT4007N7
M2 !A A VDD VDD RIT4007P7
.inc CD4007.mod
.ends not_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\john\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 15m
.inc Test_inputA-D.txt
.backanno
.end
